US06794512B2
3-Difluoromethyl-5-(cis-2,6-dimethyl-morpholin-4-yl)-1-(5-methanesulfonyl-pyridin-2-yl)-1H-pyrazole-4-carbonitrile
5-Chloro-3-difluoromethyl-1-(5-methanesulfonyl-pyridin-2-yl)-1H-pyrazole-4-carbonitrile (1.24 g, 3.7 mmol) and 2,6-cis-dimethylmorpholine (0.86 g, 7.4 mmol) were dissolved in dry dimethylsulfoxide (DMSO) (13 ml) and potassium fluoride (0.43 g, 7.4 mmol) was added to the clear solution. The resulting mixture was stirred at 20° for a period of 2 hours. Analytical HPLC indicated the reaction completion. The reaction mixture was poured into water (50 ml) and the resulting mixture was extracted with ethyl acetate (30 ml). The organic extract was dried over sodium sulfate and concentrated with a rotary evaporator. The desired product (1.3 g, 85%) was isolated by triturating the residue with ether (10 ml) containing 3 drops of methanol, stirring the suspension overnight, filtering, and drying under high vacuum. MS: 412.5, r.t.: 2.2, 1HNMR: (in d6-DMSO solvent) 9.02(1H, d, J=2.4), 8.52(1H, dd, J=8.8, 2.8), 7.98(1H, d, J=8.8), 7.12(1H, t, J=52.8), 3.68(2H, m), 3.36(3H, s), 3.28(2H, m), 2.80(2H, m), 0.99 (6H, d, J=6.4) ppm, 13C-NMR: (in d6-DMSO solvent) 155.9, 154.2, 148.2, 139.6, 119.2, 113.2, 113.1, 112.0, 109.9, 79.0, 71.6, 55.9, 44.3, 18.9 ppm.

reactant | 5-Chloro-3-difluoromethyl-1-(5-methanesulfonyl-pyridin-2-yl)-1H-pyrazole-4-carbonitrile | 3.7 mmol, 1.24 g | ClC1=C(C(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C(F)F)C#N | C11H7ClF2N4O2S
reactant | 2,6-cis-dimethylmorpholine | 7.4 mmol, 0.86 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | potassium fluoride | 7.4 mmol, 0.43 g | [F-].[K+]
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 13 ml | CS(=O)C | C2H6OS
product | 3-Difluoromethyl-5-(cis-2,6-dimethyl-morpholin-4-yl)-1-(5-methanesulfonyl-pyridin-2-yl)-1H-pyrazole-4-carbonitrile | 1.3 g, 85% | FC(C1=NN(C(=C1C#N)N1C[C@H](O[C@H](C1)C)C)C1=NC=C(C=C1)S(=O)(=O)C)F | C17H19F2N5O3S
